US04288437
(E)-2-{[(Propyl)amino]phenylmethylene}-benzo[b]thiophen-3-(2H)-one
Prepared as in Example 35 from 2-benzoyl-benzo[b]thiophen-3-ol and n-propylammonium acetate with a yield of 68% of theory; m.p. 124°-125° C. (petroleum ether/ethyl acetate 1:1).

reactant | 2-benzoyl-benzo[b]thiophen-3-ol | C(C1=CC=CC=C1)(=O)C1=C(C2=C(S1)C=CC=C2)O | C15H10O2S
reactant | n-propylammonium acetate | C(C)(=O)[O-].C(CC)[NH3+]
product | (E)-2-{[(Propyl)amino]phenylmethylene}-benzo[b]thiophen-3-(2H)-one | yield of 68% | C(CC)N\C(=C\1/C(C2=C(S1)C=CC=C2)=O)\C2=CC=CC=C2 | C18H17NOS
